US06852731B2
4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-(chloromethyl)-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a mixture of 4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-(hydroxymethyl)-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (58 mg, 0.13 mmol), collidine (44 μL, 0.33 mmol) and DMAP (2.4 mg) in DMF (2.25 mL) was added methanesulfonyl chloride (26 μL, 0.33 mmol). The mixture was stirred at room temperature for 48 hrs. Additional reagents (half original amounts) were added and the reaction was stirred another 4 hrs. The reaction was chilled in ice before the addition of water (8 mL). The ppt was collected by filtration, washed with water and dried in vacuo, giving the title compound as a white solid (58 mg).

reactant | 4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-(hydroxymethyl)-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.13 mmol, 58 mg | NC(CN1C2=C(C(C(=C1)C(=O)NCC1=CC=C(C=C1)Cl)=O)SC(=C2C)CO)=O | C19H18ClN3O4S
reactant | collidine | 0.33 mmol, 44 μL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl chloride | 0.33 mmol, 26 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 8 mL | O | H2O
catalyst | DMAP | 2.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2.25 mL | CN(C)C=O | C3H7NO
product | 4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-(chloromethyl)-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 58 mg | NC(CN1C2=C(C(C(=C1)C(=O)NCC1=CC=C(C=C1)Cl)=O)SC(=C2C)CCl)=O | C19H17Cl2N3O3S
